US06897231B2
C. [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-benzyl carboxamide
To a stirred solution of (3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-N-benzylcarboxamide (0.232 g, 0.322 mmol) was added dioxane (10.0 mL) and aqueous 6 N hydrochloric acid (10.0 mL) and the mixture heated at 50° C. for 24 h. The mixture was cooled and aqueous 6 N sodium hydroxide (20 mL). Neutralization of the aqueous layer to pH=7 with aqueous 6 N hydrochloric acid followed by extraction with ethyl acetate, drying of the organic extracts over anhydrous sodium sulfate, filtration and evaporation gave crude product. Purification by preparative HPLC (15-80% acetonitrile/water) followed by washing with saturated sodium bicarbonate and extraction with ethyl acetate gave the title compound (0.0230 g, 18% yield). 1HNMR(CD3OD) δ 8.78 (s, 1H), 8.49 (t, 1H), 8.21 (dt, 1H), 8.11 (brd, 1H), 7.93 (dt, 1H), 7.69 (t, 1H), 7.65 (d, 1H), 7.40 (dd, 2H), 7.32 (m, 2H), 7.24 (m, 1H), 4.64 (s, 2H). ES-MS (m/z) 395 [M+1]+.

reactant | (3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-N-benzylcarboxamide | 0.322 mmol, 0.232 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C(=O)NCC1=CC=CC=C1 | C47H40N6O2
reactant | hydrochloric acid | 6 N, 10.0 mL | Cl | ClH
reactant | sodium hydroxide | 6 N, 20 mL | [OH-].[Na+]
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-benzyl carboxamide | 0.0230 g, 18% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCC1=CC=CC=C1 | C23H18N6O
